### ISSUE TITLE
RFC: kernel-irreducible well-founded recursion

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#5192]
A long standing issue is that the kernel will happily try to reduce functions defined by well-founded recursion (#2171), and then this often fails with `(kernel) deep recursion detected`.

This leads to highly unpredictable behavior:
```lean
example : f 10000 = id f (id 10000) := rfl -- deep recusion
example : id f 10000 = id f (id 10000) := rfl -- fine
example : f 10000 + 0 = f (id 10000) + 0 := rfl -- deep recursion
example : f 10000 = f (id 10000) := rfl -- fine
```

It would be good to fix this. In #4061 we made functions defined by well-founded recursion irreducible by default, but this only affects the elaborator, not the kernel.

It might thus be desirable to prevent the kernel from unfolding these functions as well.

This can be achieved without changes to the kernel by inserting an `opaque` identity function into the definition of `WellFounded.fix`, as shown in #5182. This fixes the above issue.

One downside is that `unseal f in` doesn’t help anymore to make the function reduce after all. In #5182 and its mathlib adaption branch I could replace many rfl-proofs that needed `unseal f` by suitable proofs by rewriting (`by simp [f]` or variants). But two applications remain in mathlib where kernel-reduction of well-founded definitions are intentional and hard to replace:

 * [Nat.minFacAux](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime/Defs.html#Nat.minFacAux) finds the smallest factor of a number, and needs to be kernel reducible so that small prime numbers can be found.
 
   Arguably it could be rewritten to use structural recursion (or have a fuel argument), but it’s not a trivial change.
   
 * The function
    ```lean
    /-- All steps of building the abstract filtered closure together with the realization function,
        as a function of `ℕ`.
    
       The function is defined by well-founded recursion, but we really want to use its
       definitional equalities in the proofs below, so lets make it semireducible.  -/
    @[semireducible] private noncomputable def bundledAbstractFilteredClosure :
        ℕ → Σ t : Type (max v w), t → C
      | 0 => ⟨ULift.{v} α, f ∘ ULift.down⟩
      | (n + 1) => ⟨_, inductiveStepRealization (n + 1) (fun m _ => bundledAbstractFilteredClosure m)⟩
    ```
    in Mathlib/CategoryTheory/Filtered/Small.lean also seems really need well-founded recursion and kernel reduction.
    
Here is one possible way forward:

* We define `WellFounded.fix` and `WellFounded.reducibleFix`. The former is as in #5182 (no kernel reduction), the latter as it is now (kernel can reduce the `Acc` argument).
* By default, recursive functions are compiled using `WellFounded.fix` and are thus irreducible.
* If the user specifies `@[semireducible], then it is compiled using `WellFounded.reducibleFix`

This way, special cases like the two above continue working, while in general well-founded definitions do not reduce, as desired.

### Alternatives

* Live with the status quo.
* Wait until maybe eventually the kernel adheres to the transparency hints used by the elaborator.
* Wait for the module system to fix this for us (but would it do that even within a module)?

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Ok, `minNatFac` can be rewritten to be structurally recursive (with fuel), and it’s much faster:
```lean

import Mathlib

open Nat

def minFacAux1 (n : ℕ) (fuel : ℕ) (k : ℕ) (_ : 2 * fuel > sqrt n + 2 - k) : ℕ :=
  match fuel with
  | 0 => by exfalso; omega
  | fuel+1 =>
    if h : n < k * k then n
    else
      if k ∣ n then k
      else
        minFacAux1 n fuel (k + 2) (by
          push_neg at h
          have : sqrt n ≥ k := by exact le_sqrt.mpr h
          omega
          )
          
def minFacAux2 (n : ℕ) : ℕ → ℕ
  | k =>
    if n < k * k then n
    else
      if k ∣ n then k
      else
        minFacAux2 n (k + 2)
termination_by k => sqrt n + 2 - k
decreasing_by simp_wf; apply minFac_lemma n k; assumption

/--
info: 449
---
info: time: 15ms
-/
#guard_msgs in
#time
#reduce minFacAux1 449 449 3 (by norm_num)

/--
info: 449
---
info: time: 1882ms
-/
#guard_msgs in
#time
#reduce minFacAux2 449 3
```

So maybe the conclusion should be that one simply should not use well-founded recursion when one wants kernel reduction.

**Comment by digama0** [comment]
I'd really rather we fix well founded recursion to not be so broken rather than pile on more hacks.

**Comment by nomeata** [comment]
Well, it’s not broken, but it’s just too slow when you try to reduce it. So it seems unless we can make it reduce as efficient as it looks, we should avoid reducing it?

What are our options at making well-founded recursion reduce efficiently? If we are willing to give up termination I guess we can just not reduce `Acc` terms, and it’s going to be reasonably fast, but my sense is that that isn’t great either, is it?

**Comment by digama0** [comment]
We shouldn't be reducing proofs in the first place. This is the source of all of the problems. It's possible to reduce the recursor without reducing the proof, because it can only unfold to one thing. This is described in my thesis. But I think we want something a bit more specialized to well founded recursion in this case, so that the kernel can actually just run the function which is what users want anyway. Never running the function is not a solution, it's causing more problems because it means that lean can't evaluate all expressions in its language so people have to just avoid a key feature of lean entirely when using kernel reduction. That's not a sustainable path forward.

**Comment by nomeata** [comment]
If we can get away with not reducing these proofs, I would be happy!

But I don't see not reducing certain definition as bleak.

> it means that lean can't evaluate all expressions in its language so people have to just avoid a key feature of lean entirely when using kernel reduction

I expect we'll have more variants of Isabelle-style “here is a specification of a function, construct it under hood for me and prove it satisfies these equations” function definitions. I'm in particular thinking of tail-recursive and monadic functions, or more general fix points in partial order. Maybe others that just prove the existence of a certain function. I don't expect these will have any useful DefEqs, but aren't they still useful features in a theorem prover?

**Comment by digama0** [comment]
> I expect we'll have more variants of Isabelle-style “here is a specification of a function, construct it under hood for me and prove it satisfies these equations” function definitions. I'm in particular thinking of tail-recursive and monadic functions, or more general fix points in partial order. Maybe others that just prove the existence of a certain function. I don't expect these will have any useful DefEqs, but aren't they still useful features in a theorem prover?

The trouble is that lean currently leans *hard* on defeq as a method for evaluating arbitrary functions, in `#eval` and `rfl` proofs. We currently don't have anything like that for functions defined by propositional equality clauses. Isabelle has a mechanism to evaluate these functions, but we don't, unless we make sure it's all defeqs. There are a bunch of important use cases in the "proof by reflection" regime where kernel evaluation forms a key part of the proof process, and I'm getting mixed messages from the FRO on whether they want to support kernel evaluation better or worse.

**Comment by nomeata** [comment]
I'd say we have the same mechanism as Isabelle: rewriting with `simp`. You can do a lot of useful work without any defeq.

Proof by reflection is something I, too, want to be well-supported by Lean, and plan to work on soon. But as long as reduction of well-founded recursive functions is horribly slow I'd rather prevent it from happening (so that users know that it isn't something that's supported) then having unhappy users due to slow reductions.

If we ever do get reduction of fix without having to reduce the proof objects we can change that again.

**Comment by nomeata** [comment]
Here might be a way to have our cake and eat it too.

The majority of functions defined by well-founded recursion have a `termination_by` function that maps the arguments to a value in `Nat`. At least for these functions, lean could use a different construction: Do not use `WellFounded.fix` with the `invImage` metric, but use the following fixed-point combinator that uses structural recursion and fuel:

```lean
def Nat.fix {motive : α → Sort u} (h : α → Nat) (F : (x : α) → ((y : α) → h y < h x → motive y) → motive x) : (x : α) → motive x :=
  /-
  let rec go x fuel (hfuel : h x < fuel) : motive x := match fuel with
    | 0 => (not_succ_le_zero _ hfuel).elim
    | fuel+1 => F x (fun y hy => go y fuel (Nat.lt_of_lt_of_le hy (Nat.le_of_lt_add_one hfuel)))
  -/
  let go : ∀ (fuel : Nat) (x : α), (h x < fuel) → motive x := Nat.rec 
    (fun _ hfuel => (not_succ_le_zero _ hfuel).elim)
    (fun _ ih x hfuel => F x (fun y hy => ih y (Nat.lt_of_lt_of_le hy (Nat.le_of_lt_add_one hfuel))))
  fun x => go (h x + 1) x (Nat.lt_add_one _)
```

It’s about bedtime here, so I didn’t measure the reduction speed, but I expect its similarly good as with `minFacAux1`, and that we can prove the appropriate `fix_eq` and thus the equational lemmas just fine.

**Comment by nomeata** [comment]
> but I expect its similarly good as with `minFacAux1`.

And my expectation was proven wrong, it’s about as bad as the well-founded definition:

```lean

def minFacAux3 (n : ℕ) : ℕ  → ℕ :=
  Nat.fix (fun k => sqrt n + 2 - k) fun k ih =>
    if h : n < k * k then n
    else
      if k ∣ n then k
      else
        ih (k + 2) (by simp_wf; apply minFac_lemma n k; assumption)

/--
info: 449
---
info: time: 1914ms
-/
#guard_msgs in
#time
#reduce minFacAux3 449 3
```

Maybe `diagnostics` can help? We have
```
-- manual structural recursion with fuel
[reduction] unfolded declarations (max: 42, num: 4): ▼
  Decidable.rec ↦ 42
  dite ↦ 32
  Bool.rec ↦ 32
  rec ↦ 22

-- well-founded recursion
[reduction] unfolded declarations (max: 34787, num: 10): ▼
  Nat.rec ↦ 34787
  Or.rec ↦ 17217
  Acc.rec ↦ 259
  Nat.eq_or_lt_of_le ↦ 223
  Acc.inv ↦ 208
  Eq.rec ↦ 158
  rfl ↦ 144
  Decidable.rec ↦ 56
  dite ↦ 55
  Bool.rec ↦ 46
  
-- my Nat.fix experiment
[reduction] unfolded declarations (max: 34367, num: 10): ▼
  Nat.rec ↦ 34367
  Or.rec ↦ 17017
  Acc.rec ↦ 216
  Nat.eq_or_lt_of_le ↦ 203
  Acc.inv ↦ 198
  Eq.rec ↦ 128
  rfl ↦ 124
  Decidable.rec ↦ 56
  Bool.rec ↦ 46
  dite ↦ 45
```

This is strange. I wonder if I made a silly mistake somewhere.

--- 

Yes, I did! The expensive thing isn’t `minFacAux`, but it’s the `sqrt` computation:

```lean
/--
info: 21
---
info: time: 1880ms
-/
#guard_msgs in
#time 
#reduce Nat.sqrt 449
```

Above I accidentially initialized `fuel` with a simpler term than `sqrt 449` and that was much faster. If I change the fuel condition in `minFacAux1` to `(_ : fuel > sqrt n + 2 - k)` and call it as
```
#reduce minFacAux1 449 (sqrt 449 + 2 - 3  + 1) 3 (by norm_num)
```
then it is just as slow.

So much for barking up the wrong tree.

**Comment by nomeata** [comment]
Another user bitten by accidentially reducing a function defined with well-founded recursion:
https://leanprover.zulipchat.com/#narrow/stream/239415-metaprogramming-.2F-tactics/topic/An.20interval.20tactic.20for.20constant.20real.20inequalities/near/468279684

This increases my confidence that at least with the current status quo, we should block reduction of wf-rec functions, at least until when and if we can evaluate them efficiently.

**Comment by nomeata** [comment]
It seems actually likely that the Lean kernel will at some point do this kind of fast reduction of `Acc.rec` without looking at the proof term. This is also what you preferred, @digama0, right? Would you be interested to write a short RFC for it with a precise specification?

Also, it’s not unlikely that eventually the kernel will have more fine-grained transparency controls, like the elaborator now.

The timeline for both isn’t clear, though, and until then I am still in favor of removing the footgun of kernel-reduction of `WellFounded.fix`, as proposed here, with the per-function opt-out.

**Comment by cppio** [comment]
I have found a way to implement well-founded recusion that does not require reducing the proof of well-foundedness: https://leanprover.zulipchat.com/#narrow/channel/236446-Type-theory/topic/Definitional.20well-founded.20recursion/near/533615706

I ran a benchmark that compares reducing `Nat.minFac` and `Nat.sqrt` before and after patching the environment to replace `WellFounded.fix` with my `WellFounded.fix'`. I see a similar massive speedup as your manual rewrites:
[Benchmark](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0ARFJHAORRwAUpQBTfagMwGcAoZ69JLOAIgGIBralAB27APpRqAEwCuAY2rc4MAFwwhIOCrhyIIEEmFS4AXgB8cADLVDOAKIdcAYT0GjOKDOEAVDQ84IcPRecGKmFlIQzHBw6NTw1HCACYRWNsL2jji+UCA47JzZIACCRgDKAJ7CaNSMwABeifDCEKLRsfFw1ADkyam2EPR2AB4KYDAA0kKi6MOjMMAtcAA8AD596ZMi7DgA7qjC9HAAFCnWtgDm8XbCAG4AlMenaTiXMJZOMEMP1G1n6egQc4ASQOEDgIAAhNwAN7dAC+3FY+S4fC8jCQ9GoYggNyEVCkiSUEHQUhUwAJVR4cB2wDQVNEOzJFPg2l0+kMxnMcEibTi8GJxhUJjgApe8SBUl5HQZWmFDLFMAlUvgwFBsrg0N6fwVLmEjEVoLwDGEcBlNLpwiQIESQpFJLgcOV4IgUmA9HK42uN2O1FuWnWOE203st2AUBa1qqD202qD2y9YYjvpZwqw5TaMSgciQjBqnT95tQcEAF+S6PUwQwwRgAGjgAEcZBADbTa66kOdmvrgHIazoWvqAEwIF0Soa16hDdR6hZ62thgBCOeowyr48nUCQuv1pGtvdQNgJUEAl+QZvvlzxyGDQU/Z3Nn/WVxjhTpDJCXjX3itVJ+F8FIMCAIEE6plg+344AYgE4KquawHaxhHDgBL0MIIL0GCqpoXcjoxDEt6JA2TYgrSz4Tm+8AEc2MA3ku3LAO2nbzD2JGvu+bYdhAXY9tRd4gTAQ4jlIQzMWRn78VIo7cYkE5TrU/bCe+0m+rJeqSXAC5LiuT5cqR77qbmmmqdJG5bjAO55tpLEJOum79qZVo1Kp+5IIe8nwE5h6/M8IAum65RekEIS+t6XJpqeWZLk+QXUrSRbFlgS61jBuJQIu+mTr2cj7nIghSLWOaVHIJmMMgYB5YwBUfEMAD8taSEgmANOJ4DQOoUhFTVcB1Q10iWBA2boEVeXoOgABKNgNSgM69sAjDDJAsCqucJ44Z+F5XlAqnxXe5inpmeFPltiS/sWADVYBUDcKDUAA3bWZ0yFgmByNdy0rat8jrbtOg0WdF1XddrnOq67qen6v3AJd6jXV9eFwPdj3dgDFkifDT3QytsNJUIqXLulgNYylGnpapmXUNl0iAzgYAyJIxzecDHr+aT5NSAqdyqflwiFbZxX/oDnPc+WvNgBz5Vc5VVX82LhWfFVqldfU0hAs1sDSO1gMK41yvza17Xy+NitSL1/VFRrBuNcb9VFRzw1jfV9STXJyPvvVo3m47KkYzRM1zS1i2Az7Qw64trBIXA3j+pQEBgOqgAARHApXHDHgBJhAnDypynCfMGHgAtwMcdT+t40bh+qwQmjHgDtwHARZclXRwF0cEep0XanGOScAF5X1fs2HgCTwIXpchGEYQ1xY53R9JJZl6Ez6oLW09hFy5JHnAgAdpHAOfZwwcCAJXAA+2nnvesM0XN6NTFaPYkYcAOrsOgABiEBeASrP0MAQw9NCgCNwP6pQtXAMg4QaicP6H+qc/6wRuEA6EUBQFwFTmAuAUcwBAKOKgHYhxtC32Go/Z+FMoAPCOPff08cxzHHjuUWqcByhwCEqnEB5R05wBAV8Wh/oWGyjaAAASKHIOQHgyZwB/rAo408hKLwsCwwhYiZ5cmIawoSRw95HFIbWXhchOq0OkSEDBbCuTFjIdPGhEjqSHHKEeB46D6A4H/GAdANCvisGqNAagmhsEPyfkYaQOA35DDENQOsYhfE9G0Fw3xpg4BhPfiE1M6YYhl0nj/EBsCrFwHkW0Ak6AKxBHfjkoYxDgltB0vAMs5woBFCgOcY4SAgK2isTYsAdiHGEKQIAIIJS7RJwGIceAwxAAEZq66NYUcHhfCBEaOEccGRJipFTJCOI588iHisKgPQdArAAD0ABaLZzAMIQG0AANj6QATmYDs3Z+ztDzGtNoAAzH0gA7H0kALAtkbOYLwc4MgkBQCkGIV55wnyqk+Tcn4vBJCyAUHAUgMBwKqnvm+OAxyzmbJ2Xs0ERzTnnPRVc5QNBtADgAAwAA4XlvI+V8n5fyAWMCBWpYQoKaCfMEFsdAEhpDyESLC+FwhEUaJRWiy5mK4ADgAKw4uFWha5BK4B3PFQAFleecyl3zfn/MBcCxlvAwWfMhVymFZBGB1lgoc8VQqMXStFRKi5lqDn4tuaKvpRK7nKveZ8tVNLNUMqZdaFlUxxD6uhTy41przWfLRBiLEOI8TkkSO43BXjX65N/AmzxL8fHRItXiwVtq8Vgu0EqilHrqUarpVq314Kg3crICABFSLBXMG2VK+1ubcUioLaKt1qrS20vpSCnVzKBABvZdWw1cK618obdipt7arXmrzR22VA5u0lvVX2itg6/UQs5cGo1Jr4BmolbOlthKbVzvtZ28lKq11evLT6rd4LWXTA5VCmtcLQ2HvFUAA)

This demonstrates that the current kernel does not need changes to support fast reduction of well-founded recursion, so it seems unnecessary to make well-founded recursion kernel-irreducible.

**Comment by nomeata** [comment]
Have you already tried changing the definition of `WellFounded.fix` to yours and see what breaks? (It’ probably dangerous to expose such non-normalizing terms too wildly.)

**Comment by cppio** [comment]
You can see my attempt at #9944. Indeed, using my definition of `WellFounded.fix` creates many situations where either the elaborator or the kernel loops. To get the entire test suite to pass, I had to tweak the kernel a bit. I haven't yet looked into the failures in batteries and mathlib, but I don't expect it to be too challenging to get things working.

**Comment by nomeata** [comment]
I found that these days, all remaining uses of reducible well-founded recursion in batteries and mathlib are somewhat easy to avoid, so I’ll push this forward – the module system is just simpler if proofs are really irrelevant:

* https://github.com/leanprover-community/batteries/pull/1447
* https://github.com/leanprover-community/batteries/pull/1448
* https://github.com/leanprover-community/batteries/pull/1449
* https://github.com/leanprover-community/mathlib4/pull/30289
* https://github.com/leanprover-community/mathlib4/pull/30290
* https://github.com/leanprover-community/mathlib4/pull/30291
* https://github.com/leanprover-community/mathlib4/pull/30292
